US04066457
p-Nitrosuccinanilic acid, prepared according to J. Am. Chem. Soc., 67, 1220 was reduced catalytically in ethanol with 5% palladium on carbon catalyst to give p-aminosuccinanilic acid. m.p. = 180°-181° C.

reactant | p-Nitrosuccinanilic acid | [N+](=O)([O-])C1=CC=C(NC(CCC(=O)O)=O)C=C1 | C10H10N2O5
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | p-aminosuccinanilic acid | NC1=CC=C(NC(CCC(=O)O)=O)C=C1 | C10H12N2O3
